US09145429B2
1e. 5-chloro-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxohexyloxy)nicotinonitrile D234
To a mixture of compound 1-(3-(5,6-dichloro-3-cyanopyridin-2-yloxy)propyl)cyclopropyl 2,2,2-trifluoroacetate (0.87 g, 2.3 mmol) and benzo[c][1,2]oxaborole-1,5(3H)-diol (0.36 g, 2.4 mmol) in DMSO was added Cs2CO3 (0.89 g, 2.7 mmol) at room temperature and the resulting mixture was stirred at 40° C. overnight. The mixture was then poured into cold water, diluted with EtOAc, the organic phase was separated and the aqueous phase was further extracted twice with EtOAc. The combined organic layers were washed with brine twice, dried over Na2SO4 and concentrated, the residue was purified by Prep-HPLC (column: Luna 300×50.0 mm, 10μ; liquid phase: [A-H2O; B—CH3CN] B %:35%-62%, 23 min) to give the product D233 (105 mg) and D234 (112 mg), total yield 24%.

reactant | 1-(3-(5,6-dichloro-3-cyanopyridin-2-yloxy)propyl)cyclopropyl 2,2,2-trifluoroacetate | 2.3 mmol, 0.87 g | FC(C(=O)OC1(CC1)CCCOC1=NC(=C(C=C1C#N)Cl)Cl)(F)F | C14H11Cl2F3N2O3
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | 2.4 mmol, 0.36 g | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
reactant | Cs2CO3 | 2.7 mmol, 0.89 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-chloro-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxohexyloxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCCC(CC)=O)OC1=CC2=C(B(OC2)O)C=C1 | C19H18BClN2O5
